US04588719
α-Cyano-4-methoxycinnamic acid
A stirred mixture of p-anisaldehyde (60.7 ml), ammonium acetate (7.5 g), cyanoacetic acid (42.5 g), pyridone (70 ml) in toluene (390 ml) is refluxed using a Dean Stark trap until about 9 ml of water is collected. The reaction mixture is cooled and the solid precipitate filtered and stirred with 10% aqueous HCL. The solid is filtered and recrystallized from methanol yielding the desired product.

reactant | p-anisaldehyde | 60.7 ml | C(C1=CC=C(C=C1)OC)=O | C8H8O2
reactant | ammonium acetate | 7.5 g | C(C)(=O)[O-].[NH4+]
reactant | cyanoacetic acid | 42.5 g | C(#N)CC(=O)O | C3H3NO2
reactant | pyridone | 70 ml | N1C(C=CC=C1)=O | C5H5NO
solvent | toluene | 390 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | about 9 ml | O | H2O
product | α-Cyano-4-methoxycinnamic acid | C(#N)C(C(=O)O)=CC1=CC=C(C=C1)OC | C11H9NO3
